US09290476B2
2-(4-(1H-Pyrazol-1-yl)benzyl)malonic acid
A mixture of 5-(4-(1H-pyrazol-1-yl)benzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (41.4 g, 137 mmol, Intermediate 6: step a) and 3 M aqueous NaOH solution (300 mL, 900 mmol) was heated for 48 hours at 110° C. The mixture was cooled to room temperature, diluted with water (200 mL) and extracted with EtOAc (1×100 mL) and then acidified to pH 1 with concentrated aqueous HCl at 0° C. The resulting mixture was stirred at 0° C. for 1.5 hours, filtered and the filter cake was washed with water. The solids were collected and dried under vacuum at 40° C. to provide the title compound as a white solid.

reactant | 5-(4-(1H-pyrazol-1-yl)benzyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | N1(N=CC=C1)C1=CC=C(CC2C(OC(OC2=O)(C)C)=O)C=C1 | C16H16N2O4
reactant | NaOH | 900 mmol, 3 M, 300 mL | [OH-].[Na+]
solvent | water | 200 mL | O | H2O
product | 2-(4-(1H-Pyrazol-1-yl)benzyl)malonic acid | N1(N=CC=C1)C1=CC=C(CC(C(=O)O)C(=O)O)C=C1 | C13H12N2O4
